US03948973
2-(p-Acetylphenoxy)-2-methylpropionic acid was prepared from 545 g. of p-hydroxyacetophenone, 960 g. of sodium hydroxide and 715 g. of chloroform in 11 liters of acetone according to the procedure described above in Example 1, part (d). The product was recrystallized from carbon tetrachloride and from isopropyl acetate to give 2-(p-acetylphenoxy)-2-methylpropionic acid as a pale cream solid, m.p. 108°-110°C.

reactant | p-hydroxyacetophenone | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetone | 11 liters | CC(=O)C | C3H6O
product | 2-(p-acetylphenoxy)-2-methylpropionic acid | C(C)(=O)C1=CC=C(OC(C(=O)O)(C)C)C=C1 | C12H14O4
